US09193689B2
To a solution of 6-fluoro-2-(hydroxyimino)-4-methyl-2,3-dihydro-1H-inden-1-one (800 mg, 4.12 mmol) in anhydrous CCl4 (100 mL) was added PCl5 (1.28 g, 6.18 mmol) and stirred at RT for 16 h. The reaction mixture was concentrated in vacuo and the residue dissolved in anhydrous 1,4-dioxane (100 mL), cooled 0° C., the solution was saturated with HCl gas and allowed to stir RT for 16 h. The reaction mixture was heated at 60° C. for 2 h, cooled to RT and diluted with EtOAc (50 mL), washed with water (25 mL), saturated NaHCO3 solution (25 mL), brine solution (25 mL), dried (Na2SO4), filtered and concentrated in vacuo. The crude material was washed with diethyl ether (10 mL), n-pentane (10 mL) and was dried in vacuo to obtain 3-chloro-7-fluoro-5-methylisoquinolin-1(2H)-one as a pale yellow solid (550 mg, 68%).

reactant | 6-fluoro-2-(hydroxyimino)-4-methyl-2,3-dihydro-1H-inden-1-one | 4.12 mmol, 800 mg | FC1=CC(=C2CC(C(C2=C1)=O)=NO)C | C10H8FNO2
reactant | PCl5 | 6.18 mmol, 1.28 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | CCl4 | 100 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-chloro-7-fluoro-5-methylisoquinolin-1(2H)-one | 550 mg, 68% | ClC=1NC(C2=CC(=CC(=C2C1)C)F)=O | C10H7ClFNO
